US07241791B2
Step 1: (3-chloro-2-fluorophenyl)(3-fluoro-4-methoxyphenyl)methanone
Prepared according to Method A step B from 3-chloro-2-fluoro-N-methoxy-N-methylbenzamide (4.0 g, 18.4 mmol) and bromo(3-fluoro-4-methoxyphenyl)magnesium (100 mL, 2M in diethyl ether). The title compound was obtained as a white solid (1.65 g, 5.85 mmol, 32%).

reactant | 3-chloro-2-fluoro-N-methoxy-N-methylbenzamide | 18.4 mmol, 4.0 g | ClC=1C(=C(C(=O)N(C)OC)C=CC1)F | C9H9ClFNO2
reactant | bromo(3-fluoro-4-methoxyphenyl)magnesium | 2M, 100 mL | Br[Mg]C1=CC(=C(C=C1)OC)F
product | (3-chloro-2-fluorophenyl)(3-fluoro-4-methoxyphenyl)methanone | ClC=1C(=C(C=CC1)C(=O)C1=CC(=C(C=C1)OC)F)F | C14H9ClF2O2
